US05631373
A suspension of 6-chloro-5-cyano-7-nitroquinoxaline-2(1H),3(4H)-dione (0.100 g, 0.38 mmol, as prepared above) and tin (II) chloride dihydrate (0.508 g, 2.25 mmol, Aldrich) in ethanol (4.0 mL) was refluxed for 24 h. The resulting suspension was then cooled to room temperature and the yellow solid was filtered, washed with ethanol (2.0 mL), and dried under vacuum to obtain 0.078 g (88%) of 7-amino-6-chloro-5-cyanoquinoxaline-2(1H),3(4H)-dione as a yellow powder; 1H NMR (DMSO-d6): δ5.762 (br s, 2H), 6.818 (s, 1H), 11.69 (s, 1H), 12.03 (s, 1H).

reactant | 6-chloro-5-cyano-7-nitroquinoxaline-2(1H),3(4H)-dione | 0.38 mmol, 0.100 g | ClC=1C(=C2NC(C(NC2=CC1[N+](=O)[O-])=O)=O)C#N | C9H3ClN4O4
reactant | tin (II) chloride dihydrate | 2.25 mmol, 0.508 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 4.0 mL | C(C)O | C2H6O
product | 7-amino-6-chloro-5-cyanoquinoxaline-2(1H),3(4H)-dione | 0.078 g, 88% | NC1=C(C(=C2NC(C(NC2=C1)=O)=O)C#N)Cl | C9H5ClN4O2
